* Variable Gain Amplifier (VGA) Subcircuit
* The gain is controlled by the resistance of a Verilog-A VCR.

.SUBCKT vga_stage v_in v_out v_control

* Include the Verilog-A model for the voltage-controlled resistor
.HSPICE
.INCLUDE "voltage_controlled_resistor.va"
.ENDHSPICE

* Op-amp in a non-inverting configuration.
* The gain is approximately 1 + (R2 / R_vcr).
R1 v_out 2 10k

* Voltage Controlled Resistor (VCR) as the feedback element.
* Its resistance is determined by the v_control node.
X_VCR 2 0 v_control vcr

* The actual op-amp for the gain stage.
* pins: non-inverting_in, inverting_in, v_out
X_OPAMP_VGA v_in 2 v_out opamp_vga_core

.ENDS vga_stage

* Core op-amp model for the VGA
.SUBCKT opamp_vga_core v_plus v_minus v_out
E_VGA_GAIN v_out 0 v_plus v_minus 100e3
.ENDS opamp_vga_core