* Simple Peak Detector Circuit
* Consists of a diode and a capacitor to charge up to the peak voltage.

.SUBCKT peak_detector_circuit v_in v_out
D1 v_in 1 d_model
C1 1 v_out 10nF
RLoad v_out 0 1M  ; Slow discharge resistor

* Ideal Diode Model
.MODEL d_model D(Is=1e-14 N=1)
.ENDS peak_detector_circuit